US07067529B2
To a stirred solution of [1-(4-benzyloxy-3-ethoxy-phenyl)-2-phenyl-ethyl]-(2,2-dimethoxy-ethyl)-carbamic acid ethyl ester (12.0 g, 28 mmol) in ethyl acetate (120 mL) and ethanol (60 mL) solution was added 10% Pd/C (2.4 g). The mixture was hydrogenated at 1 atm for 15 hrs. The solution was filtered through a Celite® plug and evaporated to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane) afforded (2,2-dimethoxy-ethyl)-[1-(4-hydroxy-3-methoxy-phenyl)-2-(3-methoxy-phenyl)-ethyl-carbamic acid ethyl ester as a colorless oil. (10 g, 80% yield).

reactant | [1-(4-benzyloxy-3-ethoxy-phenyl)-2-phenyl-ethyl]-(2,2-dimethoxy-ethyl)-carbamic acid ethyl ester | 28 mmol, 12.0 g | C(C)OC(N(CC(OC)OC)C(CC1=CC=CC=C1)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC)=O | C30H37NO6
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Pd/C | 2.4 g | [Pd] | Pd
product | 1-(4-hydroxy-3-methoxy-phenyl)-2-(3-methoxy-phenyl)-ethyl-carbamic acid ethyl ester | 80% yield | C(C)OC(NC(CC1=CC(=CC=C1)OC)C1=CC(=C(C=C1)O)OC)=O | C19H23NO5
